US05504101
Freshly distilled POCl3 (0.122 ml) was added dropwise to cooled (ice bath) dry DMF (0.4 ml). The mixture was stirred 0.5 h at 0° C., then a solution of 5-benzylindole (0.24 g, 1.2 mmol) in DMF (0.14 ml) was added dropwise, during which time the temperature was maintained below 10° C. Once the solution was well mixed, the temperature was brought to 35° C. The syrup was stirred efficiently at this temperature for 1 h. At the end of the reaction period 0.4 g of crushed ice was added to the paste with careful stirring. The cherry-red solution was transferred with H2O (0.13 ml) to a flask containing 0.28 g of crushed ice. A solution NaOH (0.53 g, 13 mmol) in H2O (1.4 ml) was added dropwise; the suspension was heated to reflux, allowed to cool to room temperature, and was placed in a refrigerator overnight the precipitate was collected by filtration, washed well with H2O and air-dried to provide 0.15 g (56%) of 5-benzyl-3-formylindole.

reactant | POCl3 | 0.122 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 5-benzylindole | 1.2 mmol, 0.24 g | C(C1=CC=CC=C1)C=1C=C2C=CNC2=CC1 | C15H13N
reactant | NaOH | 13 mmol, 0.53 g | [OH-].[Na+]
reactant | DMF | 0.14 ml | CN(C)C=O | C3H7NO
reactant | DMF | 0.4 ml | CN(C)C=O | C3H7NO
solvent | H2O | 1.4 ml | O | H2O
solvent | H2O | 0.13 ml | O | H2O
product | 5-benzyl-3-formylindole | 0.15 g, 56% | C(C1=CC=CC=C1)C=1C=C2C(=CNC2=CC1)C=O | C16H13NO
